US06548495B2
{5-Ethoxy-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J11) (240 mg. 0.75 mmol) and 2,2-dimethyl-6-(3-[1,2,3]triazol-1-yl-phenyl)-[1,3]dioxin-4-one (Example L9) (215 mg, 0.75 mmol) according to the general procedure M. Obtained as an off-white solid (245 mg).

reactant | (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 0.75 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 2,2-dimethyl-6-(3-[1,2,3]triazol-1-yl-phenyl)-[1,3]dioxin-4-one | 0.75 mmol, 215 mg | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)N1N=NC=C1)C | C14H13N3O3
product | {5-Ethoxy-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C25H26F3N5O5
